US07544688B2
(2-chloro-pyrimidin-4-yl)-(2,2-dimethyl-propyl)-amine (2.0 g, 10.0 mmoles) and 1,4-bis-bromomethyl-benzene (4.0 g, 15.0 mmoles) are dissolved in 50 ml of DMF and NaH (0.8 g, 21.0 mmoles, 60% oil suspenstion) is added at 0° C. The mixture is stirred at rt for overnight. Water is added and the organic layer is extracted with AcOEt, washed with brine, dried over magnesum sulfate and concentrated. The crude product is purified by silica gel column chromatography to give 0.9 g of desired (4-bromomethyl-benzyl)-(2-chloro-pyrimidin-4-yl)-(2,2-dimethyl-propyl)-amine in 24% yield.

reactant | (2-chloro-pyrimidin-4-yl)-(2,2-dimethyl-propyl)-amine | 10.0 mmoles, 2.0 g | ClC1=NC=CC(=N1)NCC(C)(C)C | C9H14ClN3
reactant | 1,4-bis-bromomethyl-benzene | 15.0 mmoles, 4.0 g | BrCC1=CC=C(C=C1)CBr | C8H8Br2
reactant | NaH | 21.0 mmoles, 0.8 g | [H-].[Na+]
reactant | Water | O | H2O
solvent | DMF | 50 ml | CN(C)C=O | C3H7NO
product | (4-bromomethyl-benzyl)-(2-chloro-pyrimidin-4-yl)-(2,2-dimethyl-propyl)-amine | 0.9 g, 24% yield | BrCC1=CC=C(CN(CC(C)(C)C)C2=NC(=NC=C2)Cl)C=C1 | C17H21BrClN3
